US08022221B2
A resealable pressure tube, purged with argon, was charged with 4-chloro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine (150 mg, 0.329 mmol), bis(triphenylphosphine)palladium(II) chloride (14 mg, 0.020 mmol), copper(I) iodide (3.8 mg, 0.020 mmol), and 3,3-dimethyl-1-butyne (0.101 mL, 0.823 mmol). This mixture was purged with argon for 10 minutes, followed by addition of acetonitrile (3.3 ml, 0.1 M). The pressure tube was sealed and the mixture inside heated to 90° C. for 16 hrs. The next day, the reaction was stopped, cooled to RT, diluted with dichloromethane and filtered over a plug of celite. Filtrate was concentrated to afford a brown residue, which was purified by Gilson reverse phase chromatography (10% to 90% CH3CN/H2O/0.1% TFA). The product-containing fractions were combined, basified by addition of aq. NaHCO3 and extracted with ethyl acetate. The organic portion was dried with Na2SO4, filtered, and concentrated to afford pure 4-(3,3-dimethylbut-1-ynyl)-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine as a yellow solid. MS m/z=502 [M+H]+. Calc'd for C30H27N7O: 501.58.

reactant | 4-chloro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine | 0.329 mmol, 150 mg | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C24H18ClN7O
reactant | 3,3-dimethyl-1-butyne | 0.823 mmol, 0.101 mL | CC(C#C)(C)C | C6H10
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.020 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.020 mmol, 3.8 mg | [Cu]I
product | 4-(3,3-dimethylbut-1-ynyl)-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine | CC(C#CC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC)(C)C | C30H27N7O
